US07989444B2
2,10-dimethyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2,10-dimethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (80 mg) and 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (153 mg) and was obtained as a colourless slightly hygroscopic solid (146 mg).

reactant | 2,10-dimethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 80 mg | CC=1OC2=C(C3=C(CCNCC3)C=C2N1)C | C13H16N2O
reactant | 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 153 mg | ClCCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C17H19ClN4S
product | 2,10-dimethyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC=1OC2=C(C3=C(CCN(CC3)CCCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1)C | InChI=1S/C30H34N6OS.ClH/c1-19-10-11-24-25(8-7-9-26(24)31-19)29-33-34-30(35(29)4)38-17-6-5-14-36-15-12-22-18-27-28(37-21(3)32-27)20(2)23(22)13-16-36;/h7-11,18H,5-6,12-17H2,1-4H3;1H
